US07135466B2
2-Morpholinoethyl N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}carbamate
4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline (50 mg) was added to toluene (5 ml), and triethylamine (0.5 ml), and the mixture was heated under reflux to prepare a solution. A solution of triphosgene (77 mg) in methylene chloride was then added thereto, and the mixture was heated under reflux for 10 min. Next, 2-morpholino-1-ethanol (34 mg) was added thereto, and the mixture was further stirred with heating under reflux for 3 hr. A saturated aqueous sodium bicarbonate solution was added to stop the reaction, and the reaction solution was then extracted with chloroform, and the extract was washed with water and saturated brine in that order. The extract was dried over sodium sulfate and was then concentrated. The residue was purified on a column using chloroform/methanol to give the title compound (43 mg, yield 48%).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C17H16N2O3
reactant | triphosgene | 77 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-morpholino-1-ethanol | 34 mg | O1CCN(CC1)CCO | C6H13NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Morpholinoethyl N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}carbamate | 43 mg, yield 48% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(OCCN1CCOCC1)=O | C24H27N3O6
